US08748596B2
Purification of (6-Chloro-pyridin-3-yl)-(4-cyclobutyl-[1,4]diazepan-1-yl)-methanone
A mixture of (6-chloro-pyridin-3-yl)-(4-cyclobutyl-[1,4]diazepan-1-yl)-methanone-L-tartaric acid (172 g, 386.9 mmol), iPrOAc (1.5 L), and 1 N NaOH(aq) (1.5 L) was thoroughly mixed and the resulting layers were separated. The aqueous layer was extracted with additional iPrOAc (1.5 L) and the combined organic layers were dried over magnesium sulfate. After filtration and concentration, (6-chloro-pyridin-3-yl)-(4-cyclobutyl-[1,4]diazepam-1-yl)-methanone was obtained as a yellow oil.

reactant | (6-chloro-pyridin-3-yl)-(4-cyclobutyl-[1,4]diazepan-1-yl)-methanone L-tartaric acid | 386.9 mmol, 172 g | ClC1=CC=C(C=N1)C(=O)N1CCN(CCC1)C1CCC1.C([C@H](O)[C@@H](O)C(=O)O)(=O)O
reactant | iPrOAc | 1.5 L | C(C)(C)OC(=O)C | C5H10O2
reactant | NaOH | 1 N, 1.5 L | [OH-].[Na+]
product | (6-Chloro-pyridin-3-yl)-(4-cyclobutyl-[1,4]diazepan-1-yl)-methanone | ClC1=CC=C(C=N1)C(=O)N1CCN(CCC1)C1CCC1 | C15H20ClN3O
